Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],4.83684927817
[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.632617992809999
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13].[H:4],3.84260784821
[H:1][C:2]([H:3])[C:4]1=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4][C:13]([C:10]([C:5][C:6]([H:7])([H:8])[H:9])([H:11])[H:12])([H:14])[H:15],3.38660624251
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])=[C:4]=[O:5],-0.1760432371
[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-1.7594423117700002
[C:4]([H:5])([H:6])=[C:7]([H:8])[O:9][H:10].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10],-0.66694784
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[H:5],3.3755255872400003
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])=[C:11][H:12],5.15066896349
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])[H:11])=[C:12]([H:13])[H:14]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])[H:11])=[C:12]([H:13])[H:14],1.09782045238
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]#[C:7][O:8][H:9]>>[C:4]([H:5])#[C:6][C:7][O:8][H:9].[H:1][C:2]#[C:3],5.30741248836
[H:11].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:12]([H:13])[H:14]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.79197680396
[H:1][O:2]/[C:3](=[C:4](/[H:5])[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9],4.54336807331
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2],5.39518563826
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:9],1.7944860043400002
[H:1][O:2][C:3][C:4]([H:5])([H:6])[H:7]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[H:7],1.73136105254
[C:4]12[C:5]([H:6])[C@@:7]1([H:8])[C:9]2([H:10])[H:11].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]1[C:5]([H:6])=[C:7]([H:8])[C:9]1([H:10])[H:11],-3.92742645105
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:2][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11].[H:1][C:4][H:3],7.57437997698
[H:11].[O:1]=[C:2]([C:3](=[C:4][H:5])[O:6][H:7])[C:8]([H:9])[H:10]>>[O:1]=[C:2]([C:3](=[C:4][H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.26943151365
[H:1].[O:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])[H:12],-0.957401087417
[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13],-2.7472663733
[H:1][O:2][C:3]#[C:4][O:5][C:6]=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]#[C:7][H:8].[H:9],2.52288687876
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[H:9]>>[C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])([H:4])[C:5],3.63181602847
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]1([C:7]([H:8])[H:9])[O:10][C:11]1([H:12])[H:13],0.008376816080270001
[H:1][C:2]#[C:3].[O:4][H:5]>>[H:1][C:2]#[C:3][O:4][H:5],-6.835922041290001
[O:1]=[C:2][H:3].[O:4]=[C:5][H:6]>>[O:1]=[C:2]([H:3])[O:4][C:5][H:6],-0.71932970699
[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]([H:3])#[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1],3.5228714831800003
[O:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[C:5]([H:6])#[C:7][C:8]([H:9])[H:10].[O:1][O:2][C:3][H:4],4.72916685833
[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[O:1][C:2][C:3],4.1628633767800025
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10]>>[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:8]=[O:9],3.01398528556
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[O:10][H:11].[H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-4.998853250530001
